US04160094
A 3-necked flask is charged with 3-methyl-5,6,7,8-tetrahydroquinoline (45 g. 0.29 moles) and ether (400 ml). Phenyl lithium solution (330 ml. of a 1 molar solution 0.3 moles in ether is added to the stirred solution at a rate to give gentle reflux. Reflux is maintained for 2 hours. After cooling in an ice-bath CO2 is bubbled through the resulting red solution of 8-lithio-3-methyl-5,6,7,8-tetrahydroquinoline till no further colour change. The mixture is further treated with methanolic HCl as described in Example 24 of copending U.S. Ser. No. 460,265 to give methyl-3-methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate.

reactant | 3-methyl-5,6,7,8-tetrahydroquinoline | 0.29 moles, 45 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | Phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | CO2 | C(=O)=O | CO2
solvent | ether | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
product | methyl-3-methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | COC(=O)C1CCCC=2C=C(C=NC12)C | C12H15NO2
